US04835175
1.00 g of 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid hydrochloride, 1.4 ml of triethylamine, and 1.12 ml of the chloromethyl ester of trimethylacetic acid are combined with 15 ml of absolute dimethylformamide and stirred for 16 hours at room temperature. Then the mixture is concentrated, the residue dissolved in ethyl acetate, extracted three times with water, the organic phase is dried and concentrated, and the residue is chromatographed over an aluminum oxide column (activity stage II; eluent: cyclohexane/ethyl acetate 4+1). The product is recrystallized from diisopropyl ether/ethereal hydrochloric acid, yielding 0.7 g of 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid trimethylacetoxymethyl ester hydrochloride, decomposition point 184°-185° C.

reactant | 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid hydrochloride | 1.00 g | Cl.C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(NC12)C(=O)O)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylacetic acid | CC(C(=O)O)(C)C | C5H10O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)-2-indolecarboxylic acid trimethylacetoxymethyl ester hydrochloride | 0.7 g | Cl.CC(C(=O)OCOC(=O)C=1NC2=C(C=CC(=C2C1)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O)OCC1=CC=CC=C1)(C)C | InChI=1S/C35H40N2O6.ClH/c1-34(2,3)33(40)43-23-42-32(39)28-19-27-26(17-18-30(31(27)36-28)41-22-25-15-11-8-12-16-25)29(38)21-37(35(4,5)6)20-24-13-9-7-10-14-24;/h7-19,36H,20-23H2,1-6H3;1H
